US05200420
4-Bromomethyl-2-phenyl-benzothiazole
42.8 g (190 mmol) of 4-methyl-2-phenyl-benzothiazole [compare Perregaard, Lawesson, Acta Chem. Scand. Ser. B, 31, 203 (1977)] were dissolved in 1 l of carbon tetrachloride, and catalytic amounts of 2,2'-azoisobutyronitrile were added. 40.6 g (0.228 mol) of N-bromosuccinimide (NBS) were were added under reflux in portions and the mixture was boiled overnight. A further 40.6 g of NBS were added and the mixture was boiled for 2 h. After cooling, the mixture was diluted with methylene chloride, washed with water, dried and concentrated, and the residue was crystallized using petroleum ether.

reactant | 4-methyl-2-phenyl-benzothiazole | 190 mmol, 42.8 g | CC1=CC=CC2=C1N=C(S2)C2=CC=CC=C2 | C14H11NS
reactant | N-bromosuccinimide | 0.228 mol, 40.6 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | NBS | 40.6 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 1 l | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-Bromomethyl-2-phenyl-benzothiazole | BrCC1=CC=CC2=C1N=C(S2)C2=CC=CC=C2 | C14H10BrNS
